* AD828A SPICE Model                    Rev. A, 4/93
*                                       ARG / PMI
*
* This version of the AD828 model simulates the worst-case 
* parameters of the 'A' grade.  The worst-case parameters
* used correspond to those in the data sheet.
*
*
* Copyright 1993 by Analog Devices
*
* Refer to "README.DOC" file for License Statement.  Use of
* this model indicates your acceptance of the terms and pro-
* visions in the License Statement.
*
* Node assignments
*                non-inverting input
*                |   inverting input
*                |   |   positive supply
*                |   |   |   negative supply
*                |   |   |   |   output
*                |   |   |   |   |
.SUBCKT AD828A   2   1   99  50  46
*
* INPUT STAGE AND POLE AT 500MHZ
*
I1   4    50   1E-3
CIN  1    2    1.5E-12
CC1  1    0    .5E-12
CC2  2    0    .5E-12
IOS  2    1    150E-9
Q1   5    1    7    QN
Q2   6    3    8    QN
R3   99   5    796
R4   99   6    796
R5   7    4    744
R6   8    4    744
C1   5    6    200E-15
EOS  3    2    POLY(1) (21,98) 2E-3 0.5
*
* GAIN STAGE AND DOMINANT POLE AT 15KHZ
*
EREF 98   0    39 0 1
G1   98   9    5 6 1.257E-3
R7   9    98   4.775E6
C2   9    98   2.222E-12
D1   9    10   DX
D2   11   9    DX
V1   99   10   2.4
V2   11   50   2.4
*
* NEGATIVE ZERO AT 150MHZ
*
E1   14   98   9 39 1E6
R11  14   15   1
R12  15   98   1E-6
FNZ  14   15   VNZ -1
ENZ  16   98   14 15 1
VNZ  17   98   DC 0
CNZ  16   17   1.061E-9
*
* ZERO/POLE AT 60MHZ/75MHZ
*
E2   18   98   15 39 1.25
R13  18   19   1
R14  19   98   4
C5   18   19   2.653E-9
*
* COMMON MODE GAIN STAGE WITH ZERO AT 5KHZ
*
ECM  20   98   POLY(2) (1,39) (2,39) 0 0.5 0.5
R8   20   21   1E6
R9   21   98   100
C3   20   21   31.831E-12
*
* POLE AT 400MHZ
*
G2   98   40   19 39 1E-6
R10  40   98   1E6
C4   40   98   .398E-15
*
* OUTPUT STAGE
*
RS1  99   39   20.548E3
RS2  39   50   20.548E3
RO1  99   45   16
RO2  45   50   16
G7   45   99   99 40 62.5E-3
G8   50   45   40 50 62.5E-3
G9   98   60   45 40 62.5E-3
D7   60   61   DX
D8   62   60   DX
V7   61   98   DC 0
V8   98   62   DC 0
FSY  99   50   POLY(2) V7 V8 5.77E-3 1 1
D9   41   45   DX
D10  45   42   DX
V5   40   41   0.4
V6   42   40   0.4
LO   45   46   5E-8
.MODEL QN NPN(BF=74.76)
.MODEL DX D(IS=1E-12)
.ENDS AD828A